US06218519B1
Boron trifluoride diethyl etherate (0.2 mL) was added, with stirring, to a solution of 4-pentenal (Cherif, A.; Farquhar, D. N-(5,5-diacetoxypent-1-yl)doxorubicin: A new intensely potent doxorubicin analogue. J. Med. Chem. 35, 3208-3214 (1992)) (2.5 g, 29.8 mmol) in ethanol (150 mL). The mixture was refluxed for 10 min under nitrogen, then the ethanol was removed under reduced pressure. The residue was taken up in dichloromethane (25 mL), and the solution was washed with 10% sodium acetate solution (15 mL) and water (2×10 mL). The organic layers were combined, dried over anhydrous sodium sulfate, and evaporated. The residue was chromatographed on a column of silica gel using chloroform/methanol (97:3) as eluent. 4-Pentenal diethyl acetal was obtained as an oil (4.5 g, 96%). 1H NMR (CDCl3) δ 5.88-5.61 (m, 1 H, H4), 5.03-4.87 (m, 2 H, H5), 4.38 (t, 1 H, J=7, H1), 3.30-3.61(m, 4 H, 2×CH2), 2.07-1.96 (m, 2 H, H2), 1.64-1.53 (m, 2 H, H3), 1.09 (t, 6 H, J=7, 2×CH3).

reactant | Boron trifluoride diethyl etherate | 0.2 mL | B(F)(F)F.CCOCC
reactant | 4-pentenal | C(CCC=C)=O | C5H8O
reactant | doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 4-Pentenal diethyl acetal | C(C)OC(CCC=C)OCC | C9H18O2
